US07582645B2
To a solution of 4-(4-nitro-benzyl)-pyridine 1-oxide (1.0 g, 4.3 mmol) in dichloromethane (9 mL) was added-trimethylsilyl cyanide (2.3 mL, 17 mmol). After 5 min, benzoyl chloride (1.0 mL, 8.7 mmol) was added dropwise and the mixture was stirred at rt for an additional 30 min. Water (10 mL) was carefully added, followed by solid potassium carbonate (2.1 g). After 30 min, the aqueous phase was extracted with dichloromethane and the combined organic layers were dried over sodium sulfate and concentrated in vacuo. Purification of the residue by column chromatography, eluting with 5-25% ethyl acetate in hexanes, gave an orange oil. This oil was subsequently triturated with toluene to afford 4-(4-nitro-benzyl)-pyridine-2-carbonitrile as a tan solid (353 mg, 34%). 1H NMR (CHCl3-d) δ 8.63 (d, J=4.8 Hz, 1H), 8.21 (m, 2H), 7.49 (m, 1H), 7.32 (m, 3H), 4.15 (s, 2H).

reactant | 4-(4-nitro-benzyl)-pyridine 1-oxide | 4.3 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(CC2=CC=[N+](C=C2)[O-])C=C1 | C12H10N2O3
reactant | trimethylsilyl cyanide | 17 mmol, 2.3 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | benzoyl chloride | 8.7 mmol, 1.0 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | Water | 10 mL | O | H2O
product | 4-(4-nitro-benzyl)-pyridine-2-carbonitrile | 353 mg, 34% | [N+](=O)([O-])C1=CC=C(CC2=CC(=NC=C2)C#N)C=C1 | C13H9N3O2
